US06248740B1
Production of ethyl 2-(3,6-dichloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate
4.07 g of ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate was suspended in 60 ml of ethyl acetate; 2.13 g of N-chlorosuccinimide was added, followed by thermal refluxing for 4 hours. After cooling, water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with hexane:ethyl acetate (5:1). The desired fraction was collected and concentrated under reduced pressure to yield 4.48 g of the title compound.

reactant | ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 4.07 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C | C12H14ClN3O2
reactant | N-chlorosuccinimide | 2.13 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(3,6-dichloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 4.48 g | ClC1=C(N=C2N1N=C(C=C2)Cl)C(C(=O)OCC)(C)C | C12H13Cl2N3O2
